US04923865
93.9 g (0.295 mole) of ethyl 4-benzyloxy-3-hydroxy-2-[(1H-imidazol-4-yl)methyl]-butanoate dissolved in 500 ml of absolute ethanol and 65 ml of a 6.8N ethanolic solution of hydrochloric acid, are subjected to hydrogenolysis in the presence of 5 g of 10% palladium on carbon under a hydrogen pressure of 3.5 bars. The catalyst is then filtered off and the solvent is eliminated at 65° C. under reduced pressure. 67.1 g of 4-hydroxy-3-[(1H-imidazol-4-yl)methyl]-dihydro-2(3H)-furanone hydrochloride are obtained (mixture of diastereoisomers). Practically quantitative yield. The product obtained is used as such in the following step.

reactant | ethyl 4-benzyloxy-3-hydroxy-2-[(1H-imidazol-4-yl)methyl]-butanoate | 0.295 mole, 93.9 g | C(C1=CC=CC=C1)OCC(C(C(=O)OCC)CC=1N=CNC1)O | C17H22N2O4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 5 g | [Pd] | Pd
product | 4-hydroxy-3-[(1H-imidazol-4-yl)methyl]-dihydro-2(3H)-furanone hydrochloride | 67.1 g, quantitative yield | Cl.OC1C(C(OC1)=O)CC=1N=CNC1 | InChI=1S/C8H10N2O3.ClH/c11-7-3-13-8(12)6(7)1-5-2-9-4-10-5;/h2,4,6-7,11H,1,3H2,(H,9,10);1H
